US05057433
Sodium thiosulfate solution was slowly added to a solution of blue capricnitrate trihydrate until the blue colour just disappeared. A solution of lead nitrate was then added to give an off-white precipitate of lead tetrathionate. The precipitate was allowed to settle, the liquor poured off and distilled water added with stirring. The precipitate was filtered, washed again with distilled water, methylated spirits and finally with ether and thereafter dried.

reactant | Sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | lead nitrate | [N+](=O)([O-])[O-].[Pb+2].[N+](=O)([O-])[O-]
product | lead tetrathionate | S(=O)(=O)([O-])SSS(=O)(=O)[O-].[Pb+2] | InChI=1S/H2O6S4.Pb/c1-9(2,3)7-8-10(4,5)6;/h(H,1,2,3)(H,4,5,6);/q;+2/p-2
